US09227995B2
Imidazole-1-Sulfonyl Azide Hydrochloride 10
Sodium azide (13.12 g, 0.2018 mol) was suspended in CH3CN (200 mL) and the suspension cooled to 0° C. (ice bath). Sulfuryl chloride (27.24 g, 0.2018 mol) was added dropwise over 20 min. The ice bath was removed and stirring continued for 20 h at room temperature (a septum and balloon were mounted on the reaction flask). The reaction mixture was cooled to 0° C. (ice bath) and imidazole (26.11 g, 0.3835 mol) added over 20 min. After stirring for 3 h 15 min at room temperature the suspension was diluted with EtOAc (400 mL) and washed with H2O (2×400 mL) and saturated NaHCO3 solution (2×400 mL). The solution was dried with anhydrous MgSO4 and cooled to 0° C. (ice bath). Acetyl chloride (23.76 g, 0.3027 mol) was added dropwise to icecold EtOH (75 mL) over 10-15 min. After stirring for 10 min at 0° C. the solution was added to the EtOAc solution over 20 min. After stirring for 10 min the resulting suspension was filtered and the precipitate washed with EtOAc (4×100 mL) and dried under suction for 30 min affording the title compound as a white solid (31.81 g, 75%) with spectral characteristics in accordance with literature data7; 1H NMR (200 MHz, D2O) δ 9.43 (t, J=1.4 Hz, 1H), 8.05 (dd, J=2.1, 1.8 Hz, 1H), 7.64 (dd, J=2.1, 1.2 Hz, 1H); 13C NMR (75 MHz, D2O) δ 138.0, 123.1, 120.6; HRMS (m/z): M+ calcd. for C3H4N5O2S, 174.0085. found, 174.0085; Anal. Calcd. for C3H4ClN5O2S: C, 17.19; H, 1.92; N, 33.41. Found: C, 17.4; H, 2.1; N, 33.5.

reactant | Sodium azide | 0.2018 mol, 13.12 g | [N-]=[N+]=[N-].[Na+]
reactant | Sulfuryl chloride | 0.2018 mol, 27.24 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | imidazole | 0.3835 mol, 26.11 g | N1C=NC=C1 | C3H4N2
reactant | Acetyl chloride | 0.3027 mol, 23.76 g | C(C)(=O)Cl | C2H3ClO
solvent | CH3CN | 200 mL | CC#N | C2H3N
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 75 mL | CCO | C2H6O
product | Imidazole-1-Sulfonyl Azide Hydrochloride | 31.81 g, 75% | Cl.N1(C=NC=C1)S(=O)(=O)N=[N+]=[N-] | InChI=1S/C3H3N5O2S.ClH/c4-6-7-11(9,10)8-2-1-5-3-8;/h1-3H;1H
